US05599816
Step 6: 1-Ethyl-8-(4-methylpiperazin-1-yl)-6,7,9-trifluoro-4H-quinolizin-4-one-3-carboxylic acid hydrochloride
To a solution of 199 mg (0.5 mmol) of ethyl 1-ethyl-8-(4-methylpiperazin-1-yl)-6,7,9-trifluoro-4H-quinolizin-4-one-3-carboxylate, from Step 5, in 4 mL of THF is added 4.0 mL of a 1.0N aqueous sodium hydroxide solution and the reaction mixture is heated, with stirring, at 75° C. for 4.5 hours. The reaction mixture is cooled to ambient temperature and adjusted to pH 2 with 5 mL of 1N aqueous hydrochloric acid solution. The aqueous solution is concentrated in vacuo to ~5 mL and the solid is collected by filtration and dried in vacuo to afford the title compound.

reactant | ethyl 1-ethyl-8-(4-methylpiperazin-1-yl)-6,7,9-trifluoro-4H-quinolizin-4-one-3-carboxylate | 0.5 mmol, 199 mg | C(C)C=1C=C(C(N2C(=C(C(=C(C12)F)N1CCN(CC1)C)F)F)=O)C(=O)OCC | C19H22F3N3O3
reactant | sodium hydroxide | 1.0N | [OH-].[Na+]
reactant | hydrochloric acid | 1N, 5 mL | Cl | ClH
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | 1-Ethyl-8-(4-methylpiperazin-1-yl)-6,7,9-trifluoro-4H-quinolizin-4-one-3-carboxylic acid hydrochloride | Cl.C(C)C=1C=C(C(N2C(=C(C(=C(C12)F)N1CCN(CC1)C)F)F)=O)C(=O)O | InChI=1S/C17H18F3N3O3.ClH/c1-3-9-8-10(17(25)26)16(24)23-13(9)11(18)14(12(19)15(23)20)22-6-4-21(2)5-7-22;/h8H,3-7H2,1-2H3,(H,25,26);1H
